US06759554B2
The general procedure under argon was followed using copper(I) iodide (10 mg, 0.05 mmol), K3PO4 (425 mg, 2.00 mmol), benzylamine (131 μL, 1.20 mmol), 1-iodonaphthlen (146 μl, 1.00 mmol), ethylene glycol (111 μL, 2.00 mmol) and 2-propanol (1.0 mL). Column chromatography using a solvent mixture (hexane/ethyl acetate=20/1, Rƒ=0.4) afforded N-(1-naphthyl)benzylamine (163 mg, 70% isolated yield) as light yellow solid. The spectral data (1H NMR) matched with the literature references and GC analysis indicated >95% purity. See Janin, Y. L.; Bisagni, E. Synthesis 1993, 57-59.

reactant | K3PO4 | 2.00 mmol, 425 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | benzylamine | 1.20 mmol, 131 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | 1-iodonaphthlen | 1.00 mmol, 146 μl | IC1=CC=CC2=CC=CC=C12 | C10H7I
reactant | ethylene glycol | 2.00 mmol, 111 μL | C(CO)O | C2H6O2
catalyst | copper(I) iodide | 0.05 mmol, 10 mg | [Cu]I
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | 2-propanol | 1.0 mL | CC(C)O | C3H8O
product | N-(1-naphthyl)benzylamine | 163 mg, 70% | C1(=CC=CC2=CC=CC=C12)NCC1=CC=CC=C1 | C17H15N
